US07598264B2
Ethyl 4-methoxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate
The title product was prepared by treating ethyl 4-hydroxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate with TMS-diazomethane, using a method set forth in Step 5 of Example 8 for the preparation of ethyl 6-(4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate, except that after quenching with HOAc the reaction was concentrated in vacuo and partitioned between sat aq NaHCO3 and CHCl3. LRMS (M+1)=371.0

reactant | ethyl 4-hydroxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | OC1=CN=C(C=2CCN(C(C12)=O)CC1=CC=C(C=C1)OC)C(=O)OCC | C19H20N2O5
reactant | TMS-diazomethane | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | ethyl 6-(4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | FC1=CC=C(CN2C(C=3C(=CN=C(C3CC2)C(=O)OCC)OC)=O)C=C1 | C19H19FN2O4
product | Ethyl 4-methoxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | COC1=CN=C(C=2CCN(C(C12)=O)CC1=CC=C(C=C1)OC)C(=O)OCC | C20H22N2O5
